US05508288
N-(1-Methyl-5-indolyl)-N'-(4-isoquinolyl) urea (E17)
The title compound was prepared from 4-aminoisoquinoline, 1,1'-carbonyl diimidazole and 5-amino-1-methyl-indole using a procedure similar to that described for Example 1, and then converted to the hydrochloride salt using hydrogen chloride in ether/ethanol, in 26% overall yield, m.p. 195°-197° C.

reactant | 4-aminoisoquinoline | NC1=CN=CC2=CC=CC=C12 | C9H8N2
reactant | 1,1'-carbonyl diimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-amino-1-methyl-indole | NC=1C=C2C=CN(C2=CC1)C | C9H10N2
reactant | hydrogen chloride | Cl | ClH
solvent | ether ethanol | CCOCC.C(C)O
product | N-(1-Methyl-5-indolyl)-N'-(4-isoquinolyl) urea | CN1C=CC2=CC(=CC=C12)NC(=O)NC1=CN=CC2=CC=CC=C12 | C19H16N4O
